US04055561
Following essentially the same procedure described in Example IV above and substituting 7-(α-aminoethyl)-6-ethyl-1,1,4,4-tetramethyl-1,2,3,4-tetrahydronaphthalene for the α-methyl-ρ-phenethylbenzylamine hydrochloride above, results in the formation of 2-[1-(7-ethyl-1,2,3,4-tetrahydro-1,1,4,4-tetramethyl-6-naphthyl)ethylimino]hexahydro-1H-azepine hydrochloride, having a M.P. of 246.5°-7.5° C. (dec.)

reactant | 7-(α-aminoethyl)-6-ethyl-1,1,4,4-tetramethyl-1,2,3,4-tetrahydronaphthalene | NC(C)C1=C(C=C2C(CCC(C2=C1)(C)C)(C)C)CC | C18H29N
reactant | α-methyl-ρ-phenethylbenzylamine hydrochloride | Cl.CC(C1=CC=C(C=C1)CCC1=CC=CC=C1)N
product | 2-[1-(7-ethyl-1,2,3,4-tetrahydro-1,1,4,4-tetramethyl-6-naphthyl)ethylimino]hexahydro-1H-azepine hydrochloride | Cl.C(C)C1=C(C=C2C(CCC(C2=C1)(C)C)(C)C)C(C)N=C1NCCCCC1 | InChI=1S/C24H38N2.ClH/c1-7-18-15-20-21(24(5,6)13-12-23(20,3)4)16-19(18)17(2)26-22-11-9-8-10-14-25-22;/h15-17H,7-14H2,1-6H3,(H,25,26);1H
